US04187251
2-Methylcyclohexyl Methyl Ketone
A solution of 13.2 g. (0.0928 moles) cis/trans-1-(2-methylcyclohexyl)-1-ethanol in 50 ml. of ether was chilled in an ice bath and 50 ml. 2 N chromic acid solution (BROWN GARG-Reagent) was added dropwise, with stirring, at such a rate as to maintain the temperature at about 10° C. After the addition was complete, the ice bath was removed and the stirring was continued at ambient temperature for one hour.

reactant | trans-1-(2-methylcyclohexyl)-1-ethanol | C[C@H]1[C@@H](CCCC1)C(C)O | C9H18O
reactant | chromic acid | 2 N | [Cr](=O)(=O)(O)O
solvent | ether | CCOCC | C4H10O
product | 2-Methylcyclohexyl Methyl Ketone | CC(=O)C1C(CCCC1)C | C9H16O
